### PR TITLE
[Merged by Bors] - feat(Algebra/Category/Ring/EqualizerPushout): add effectiveEpi_of_faithfullyFlat in CommRingCatᵒᵖ

### PR DESCRIPTION
**Pull request by yonggyuchoimath**
This PR proves that any map `f : S ⟶ R` in `CommRingCatᵒᵖ` with faithfully flat `f.unop : R.unop ⟶ S.unop` is
an effective epimorphism.

Main results:

- `CommRingCat.Equalizer.isLimitForkPushoutSelfOfFaithfullyFlat` : If `f : R ⟶ S` is a faithfully flat map in `CommRingCat`, then `Fork.ofι f pushout.condition` is an equalizer diagram.

- `CommRingCat.Opposite.effectiveEpi_of_faithfullyFlat` : Any map `f : S ⟶ R` in `CommRingCatᵒᵖ` with faithfully flat `f.unop : R.unop ⟶ S.unop` is an effective epimorphism.

---

- [x] depends on: #29960
- [x] depends on: #30200

### CODE REVIEW

File: Mathlib/Algebra/Category/Ring/EqualizerPushout.lean [hunk 1]
```diff
@@ -0,0 +1,193 @@
...
+  apply CommRingCat.hom_ext
+  apply RingHom.coe_inj
+  ext
+  exact Algebra.TensorProduct.tmul_one_eq_one_tmul _
+
+/-- For a map `R ⟶ S` in `CommRingCat`, it asserts that the pair of maps `f : R → S` and
+`Algebra.TensorProduct.includeLeftSubRight : S → S ⊗[R] S` form an exact pair. -/
+def IsEffective : Prop := by
+  algebraize [f.hom]
+  exact Algebra.IsEffective R S
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/Ring/EqualizerPushout.lean]: For consistency with other parts of the library, I would suggest to define this for `RingHom`s instead. Also please use something like this:
```
@[algebraize Algebra.IsEffective]
def RingHom.IsEffective {R S : Type*} [CommRing R] [CommRing S] (f : R →+* S) : Prop :=
  letI := f.toAlgebra
  Algebra.IsEffective R S
```
We avoid using `algebraize` for creating data. Then please also add a lemma `RingHom.isEffective_algebraMap` similar to e.g. [RingHom.etale_algebraMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/RingHom/Etale.html#RingHom.etale_algebraMap).

Edit: Let's see first if we can do it without introducing this at all by staying in `Algebra R S`-land as long as possible, see the comment below.

File: Mathlib/Algebra/Category/Ring/EqualizerPushout.lean [hunk 2]
```diff
@@ -0,0 +1,193 @@
...
+
+namespace Equalizer
+
+section CodRestrictEqLocusPushoutCocone
+
+variable {R S : CommRingCat.{u}} (f : R ⟶ S)
+
+/-- The canonical ring map from `R` to the (explicit) equalizer of `includeLeft : S ⟶ S ⊗[R] S` and
+`includeRight : S ⟶ S ⊗[R] S`. -/
+noncomputable def codRestrictEqLocusPushoutCocone :
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/Ring/EqualizerPushout.lean]: This whole section looks like it could be phrased for `{R S : Type*} [CommRing R] [CommRing S] [Algebra R S]` instead. This would get rid of many `algebraize [f.hom]`s below. In fact, it might be that this means you don't need `forkPushoutCoconeSelf` at all and maybe could also drop the predicate `RingHom.IsEffective` from above.

Comment (yonggyuchoimath) [reply Mathlib/Algebra/Category/Ring/EqualizerPushout.lean]: Both `forkPushoutCoconeSelf` and `RingHom.IsEffective` were removed, and the section `CodRestrictEqLocusPushoutCocone` is now moved to `RingTheory/TensorProduct/IncludeLeftSubRight` (should it just be placed in `Algebra/Category/Ring/EqualizerPushout`?).

File: Mathlib/Algebra/Category/Ring/EqualizerPushout.lean (hunk 1 above)
Comment (yonggyuchoimath) [reply Mathlib/Algebra/Category/Ring/EqualizerPushout.lean]: `RingHom.IsEffective` is now removed; see below.

File: Mathlib/Algebra/Category/Ring/EqualizerPushout.lean [hunk 3]
```diff
@@ -0,0 +1,110 @@
...
+Authors: Yong-Gyu Choi
+-/
+module
+
+public import Mathlib.CategoryTheory.Limits.Shapes.Opposites.Equalizers
+public import Mathlib.RingTheory.RingHom.FaithfullyFlat
+public import Mathlib.RingTheory.TensorProduct.IncludeLeftSubRight
+
+/-!
+# Equalizer of inclusions to pushout in `CommRingCat`
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/Ring/EqualizerPushout.lean]:
```suggestion
# Equalizer of inclusions to pushouts in `CommRingCat`
```

File: Mathlib/Algebra/Category/Ring/EqualizerPushout.lean [hunk 4]
```diff
@@ -0,0 +1,110 @@
...
+@[expose] public section
+
+open CategoryTheory Limits
+
+namespace CommRingCat
+
+universe u
+
+namespace Equalizer
+
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/Ring/EqualizerPushout.lean]: I think we can just put this in the `CommRingCat` namespace.
```suggestion
```

File: Mathlib/Algebra/Category/Ring/EqualizerPushout.lean [hunk 5]
```diff
@@ -0,0 +1,110 @@
...
+        (Algebra.codRestrictEqLocusPushoutCocone.bij_of_faithfullyFlat R S hf))
+      (by cat_disch) (by cat_disch) (by cat_disch)).symm
+    (equalizerForkIsLimit (pushoutCocone R S S).inl (pushoutCocone R S S).inr)
+  exact Fork.isLimitEquivOfIsos fork (Fork.ofι f pushout.condition) (Iso.refl _)
+    (IsPushout.isoPushout isPushout) (Iso.refl _) (IsPushout.inl_isoPushout_hom isPushout).symm
+    (IsPushout.inr_isoPushout_hom isPushout).symm rfl isLimit
+
+/-- A regular monomorphism structure on a map `f : R ⟶ S` in `CommRingCat` with
+faithfully flat `f.hom : R ⟶ S`. -/
+noncomputable def regularMonoOfFaithfullyFlat (hf : f.hom.FaithfullyFlat) :
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/Ring/EqualizerPushout.lean:64]: Could you please also add:
```
lemma isRegularMono_of_faithfullyFlat (hf : f.hom.FaithfullyFlat) :
    IsRegularMono f :=
  isRegularMono_of_regularMono (regularMonoOfFaithfullyFlat f hf)
```
below? This is mainly for discoverability.

File: Mathlib/Algebra/Category/Ring/EqualizerPushout.lean [hunk 6]
```diff
@@ -0,0 +1,110 @@
...
+/-- For a map `f : S ⟶ R` in `CommRingCatᵒᵖ` with faithfully flat `f.unop : R.unop ⟶ S.unop`,
+the cofork
+```
+pullback f f ---fst---> S
+                          --f--> R
+pullback f f ---snd---> S
+```
+is a coequalizer diagram. -/
+noncomputable def isColimitOfπPullbackOfFaithfullyFlat (hf : f.unop.hom.FaithfullyFlat) :
+    IsColimit (Cofork.ofπ f pullback.condition) :=
```
Comment (chrisflav) [inline Mathlib/Algebra/Category/Ring/EqualizerPushout.lean]: Do you really need these? Probably we should just add general lemmas going between `IsRegularMono` and `IsRegularEpi` when going from `C` to `Cᵒᵖ`. So I would suggest to drop these from this PR, I can quickly prepare one for the opposite lemmas so it will be available for your `Scheme` PR.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 7]
```diff
@@ -148,4 +149,45 @@ end FaithfullyFlat
...
+  RingHom.codRestrict (algebraMap R S)
+    ((CommRingCat.pushoutCocone R S S).inl.hom.eqLocus (CommRingCat.pushoutCocone R S S).inr.hom)
+    (by simp)
+
+/-- Injectivity of `algebraMap R S` implies injectivity of `codRestrictEqLocusPushoutCocone f`. -/
+lemma codRestrictEqLocusPushoutCocone.inj_of_inj (hf : Function.Injective (algebraMap R S)) :
+    Function.Injective (codRestrictEqLocusPushoutCocone R S) :=
+  RingHom.injective_codRestrict.mpr hf
+
+/-- `Algebra.IsEffective R S` implies surjectivity op `codRestrictEqLocusPushoutCocone`. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
/-- `Algebra.IsEffective R S` implies surjectivity of `codRestrictEqLocusPushoutCocone`. -/
```

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 8]
```diff
@@ -148,4 +149,45 @@ end FaithfullyFlat
...
+lemma codRestrictEqLocusPushoutCocone.surj_of_isEffective (hf : Algebra.IsEffective R S) :
+    Function.Surjective (codRestrictEqLocusPushoutCocone R S) := by
+  intro s
+  have := Set.mem_range.mp <|
+    Algebra.IsEffective.eqLocus_includeLeft_includeRight hf ▸ SetLike.mem_coe.mpr s.property
+  use this.choose
+  apply Subtype.ext
+  erw [RingHom.codRestrict_apply, this.choose_spec]
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
  intro ⟨s, hs⟩
  obtain ⟨t, rfl⟩ := Set.mem_range.mp <|
    Algebra.IsEffective.eqLocus_includeLeft_includeRight hf ▸ SetLike.mem_coe.mpr hs
  exact ⟨t, rfl⟩
```
We try to avoid `erw` when possible. Usually `obtain` makes the goal a bit easier than `Exists.choose`.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 9]
```diff
@@ -148,4 +149,45 @@ end FaithfullyFlat
...
+    R →+* (CommRingCat.equalizerFork
+      (CommRingCat.pushoutCocone R S S).inl (CommRingCat.pushoutCocone R S S).inr).pt :=
+  RingHom.codRestrict (algebraMap R S)
+    ((CommRingCat.pushoutCocone R S S).inl.hom.eqLocus (CommRingCat.pushoutCocone R S S).inr.hom)
+    (by simp)
+
+/-- Injectivity of `algebraMap R S` implies injectivity of `codRestrictEqLocusPushoutCocone f`. -/
+lemma codRestrictEqLocusPushoutCocone.inj_of_inj (hf : Function.Injective (algebraMap R S)) :
+    Function.Injective (codRestrictEqLocusPushoutCocone R S) :=
+  RingHom.injective_codRestrict.mpr hf
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
/-- Injectivity of `algebraMap R S` implies injectivity of `codRestrictEqLocusPushoutCocone f`. -/
lemma codRestrictEqLocusPushoutCocone.injective_of_faithfulSMul [FaithfulSMul R S] :
    Function.Injective (codRestrictEqLocusPushoutCocone R S) :=
  RingHom.injective_codRestrict.mpr (FaithfulSMul.algebraMap_injective _ _)
```

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 10]
```diff
@@ -148,4 +149,45 @@ end FaithfullyFlat
...
+
+/-- `Algebra.IsEffective R S` implies surjectivity op `codRestrictEqLocusPushoutCocone`. -/
+lemma codRestrictEqLocusPushoutCocone.surj_of_isEffective (hf : Algebra.IsEffective R S) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
lemma codRestrictEqLocusPushoutCocone.surjective_of_isEffective (hf : Algebra.IsEffective R S) :
```

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 11]
```diff
@@ -148,4 +149,45 @@ end FaithfullyFlat
...
+  erw [RingHom.codRestrict_apply, this.choose_spec]
+
+/-- Faithfully flat `algebraMap R S` implies bijectivity of `codRestrictEqLocusPushoutCocone`. -/
+lemma codRestrictEqLocusPushoutCocone.bij_of_faithfullyFlat (hf : (algebraMap R S).FaithfullyFlat) :
+    Function.Bijective (codRestrictEqLocusPushoutCocone R S) := by
+  constructor
+  · exact codRestrictEqLocusPushoutCocone.inj_of_inj _ _ (RingHom.FaithfullyFlat.injective hf)
+  · haveI : Module.FaithfullyFlat R S := (RingHom.faithfullyFlat_algebraMap_iff).mp hf
+    exact codRestrictEqLocusPushoutCocone.surj_of_isEffective _ _
+      (Algebra.IsEffective.of_faithfullyFlat R S)
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
/-- If `S` is a faithfully flat `R`-algebra, `codRestrictEqLocusPushoutCocone` is bijective. -/
lemma codRestrictEqLocusPushoutCocone.bijective_of_faithfullyFlat [Module.FaithfullyFlat R S] :
    Function.Bijective (codRestrictEqLocusPushoutCocone R S) := by
  constructor
  · exact codRestrictEqLocusPushoutCocone.injective_of_faithfulSMul _ _
  · exact codRestrictEqLocusPushoutCocone.surjective_of_isEffective _ _ (.of_faithfullyFlat R S)
```
When we have `Algebra`s as assumptions, we should use the properties on algebras and not the ones on `RingHom`s.

**Review by chrisflav — COMMENTED** [review]
Thanks, this already looks quite good. Some comments below.

File: Mathlib/Algebra/Category/Ring/EqualizerPushout.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/Algebra/Category/Ring/EqualizerPushout.lean]: It is fine in `IncludeLeftSubRight` as is.

File: Mathlib/Algebra/Category/Ring/EqualizerPushout.lean (hunk 6 above)
Comment (chrisflav) [reply Mathlib/Algebra/Category/Ring/EqualizerPushout.lean]: #35872

Comment (yonggyuchoimath) [reply Mathlib/Algebra/Category/Ring/EqualizerPushout.lean]: Thank you! I removed `isColimitOfπPullbackOfFaithfullyFlat`.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 12]
```diff
@@ -133,7 +133,7 @@ lemma of_isEffective_tensorProduct_of_faithfullyFlat
       (TensorProduct.rid R R T).toAddMonoidHom (AddMonoidHom.id (T ⊗[R] S))
       (TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).toAddMonoidHom ?_ ?_
       (TensorProduct.rid R R T).surjective Function.bijective_id
-      ((TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).injective) |>.mpr ‹_›
+      ((TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).injective)|>.mpr ‹_›
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
      ((TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).injective) |>.mpr ‹_›
```
Seems like an unrelated change, so let's not do it here.

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer delegate
